US05747235
Preparation of S-10, N-(4-Methylthiophenyl)-N-(n-butyl)alanine sodium salt
N-(4-Methylthiophenyl)-N-(n-butyl)alanine ethyl ester (3.0 g, 10.1 mmol) was dissolved in 50 mL methanol and 5 mL of water was added. Sodium hydroxide (0.41 g, 10.1 mmol) was dissolved in a minimum amount of water, and added to the aqueous methanol solution. The mixture was stirred 18 h at room temperature, and then the solvent was removed at reduced pressure. The resulting white solid was used without purification.

reactant | N-(4-Methylthiophenyl)-N-(n-butyl)alanine ethyl ester | 10.1 mmol, 3.0 g | C(C)OC([C@@H](N(CCCC)C1=CC=C(C=C1)SC)C)=O | C16H25NO2S
reactant | Sodium hydroxide | 10.1 mmol, 0.41 g | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
product | N-(4-Methylthiophenyl)-N-(n-butyl)alanine sodium salt | [Na+].CSC1=CC=C(C=C1)N([C@@H](C)C(=O)[O-])CCCC | InChI=1S/C14H21NO2S.Na/c1-4-5-10-15(11(2)14(16)17)12-6-8-13(18-3)9-7-12;/h6-9,11H,4-5,10H2,1-3H3,(H,16,17);/q;+1/p-1/t11-;/m0./s1
